US06395718B1
Preparation of dibenzyl 2-[(benzylsulfinyl)methyl]pentanedioate
To a solution of dibenzyl 2-methylenepentanedioate (12.16 g, 37.5 mmol) in acetone (100 mL), was added benzylmercaptan (9.31 g, 75.0 mmol) and 4-dimethylaminopyridine (0.46 g, 3.75 mmol) with stirring. The reaction mixture was refluxed for 16 hours. The cooled solution was concentrated under reduced pressure and purified by column chromatography to yield 15.2 g (90%) of clear oil.

reactant | dibenzyl 2-methylenepentanedioate | 37.5 mmol, 12.16 g | C=C(C(=O)OCC1=CC=CC=C1)CCC(=O)OCC1=CC=CC=C1 | C20H20O4
reactant | benzylmercaptan | 75.0 mmol, 9.31 g | C(C1=CC=CC=C1)S | C7H8S
reactant | acetone | 100 mL | CC(=O)C | C3H6O
catalyst | 4-dimethylaminopyridine | 3.75 mmol, 0.46 g | CN(C1=CC=NC=C1)C | C7H10N2
product | dibenzyl 2-[(benzylsulfinyl)methyl]pentanedioate | 15.2 g, 90% | C(C1=CC=CC=C1)S(=O)CC(C(=O)OCC1=CC=CC=C1)CCC(=O)OCC1=CC=CC=C1 | C27H28O5S
